US07026352B1
(8E,12E,14E)-3,6,21-Tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-(4-nitrophenoxy)carboxy-18,19-epoxytricosa-8,12,14-trien-11-olide
A solution of 4-nitrophenyl chloroformate (62 mg, 300 μmol) in dichloromethane (2.5 mL) was added dropwise into a solution of (8E,12E,14E)-3,6,21-tri(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (35 mg, 49.2 μmol), triethylamine (61 mg, 600 μmol) and dimethylaminopyridine (4 mg, 30 μmol) in dichloromethane (2.5 mL), followed by stirring at room temperature for 2.5 hours under nitrogen atmosphere. Ethyl acetate, water and saturated sodium bicarbonate aqueous solution were added to the reaction mixture, and the mixture was extracted with ethyl acetate, then the organic layer was washed with water. The resulting organic layer was dried over anhydrous magnesium sulfate, filtered and then evaporated to give the title crude compound (92.2 mg) as a yellow oil. This was used for the following reaction without purification.

reactant | 4-nitrophenyl chloroformate | 300 μmol, 62 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | (8E,12E,14E)-3,6,21-tri(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 49.2 μmol, 35 mg | C(C)OC(C)OC1CC(=O)OC(C(/C=C/C(C(CC1)(C)OC(C)OCC)O)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C | C40H70O10
reactant | triethylamine | 600 μmol, 61 mg | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 30 μmol, 4 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (8E,12E,14E)-3,6,21-Tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-(4-nitrophenoxy)carboxy-18,19-epoxytricosa-8,12,14-trien-11-olide | 92.2 mg | C(C)OC(C)OC1C(C(=O)OC(C(/C=C/C(C(CC1)(C)OC(C)OCC)OC1=CC=C(C=C1)[N+](=O)[O-])C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C)C(=O)O | C47H73NO14
